US07202363B2
N-(4-{4-amino-7-[-3-(4-methyl-3-oxopiperazin-1-yl)prop-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide
The title compound was prepared using N-(4-{4-amino-7-[(1Z)-3-oxoprop-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide, 1-methyl-piperazin-2-one (trifluoroacetic acid salt), and General Procedure B. 1H NMR (DMSO-d6, 400 MHz) δ 9.51 (s, 1H), 7.99 (m, 1H), 7.97 (s, 1H), 7.70 (d, 1H), 7.60 (s, 1H), 7.58 (d, 1H), 7.33 (s, 1H), 7.31 (t, 1H), 7.19 (s, 1H), 7.11 (t, 1H), 7.07 (d, 1H), 6.71 (d, 1H), 6.22 (m, 1H), 5.65 (br, 2H), 4.02 (s, 3H), 3.89 (s, 3H); 3.30 (m, 4H), 3.03 (s, 2H), 2.81 (s, 3H), 2.72 (m, 2H); MS: (MH)+ 581.

reactant | N-(4-{4-amino-7-[(1Z)-3-oxoprop-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)\C=C/C=O | C27H22N4O3S
reactant | 1-methyl-piperazin-2-one | CN1C(CNCC1)=O | C5H10N2O
product | N-(4-{4-amino-7-[-3-(4-methyl-3-oxopiperazin-1-yl)prop-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C=CCN2CC(N(CC2)C)=O | C32H32N6O3S
